US09382241B2
Step 2: 6-(3-chlorophenyl)-N-(pyridin-4-yl)quinazolin-4-amine 52
To an 8 mL screw-cap vial was added 6-iodo-N-(4-pyridyl)quinazolin-4-amine (95 mg, 0.2729 mmol), (3-chlorophenyl)boronic acid, (1.2 equiv., 0.33 mmol, 51.21 mg), 1-4 dioxane (0.8 mL), potassium phosphate tribasic, (2M in H2O, 3 equiv., 0.82 mmol, 0.41 mL), and Bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) (0.05 equiv.; 0.014 mmol, 10 mg). The reaction was capped and shaken at 60° C. for 1 h. The reaction was then diluted with 4 mL dichloromethane and washed with water. Organic phase was then concentrated. Crude was purified by reverse phase HPLC yielding 31 mg of product. 1H NMR (400 MHz, DMSO) δ 10.22-10.07 (s, 1H), 8.92-8.86 (s, 1H), 8.82-8.75 (s, 1H), 8.56-8.49 (d, J=5.4 Hz, 2H), 8.31-8.25 (m, 1H), 8.05-7.97 (m, 3H), 7.97-7.91 (d, J=8.7 Hz, 1H), 7.90-7.84 (d, J=7.7 Hz, 1H), 7.64-7.57 (t, J=7.8 Hz, 1H), 7.57-7.50 (d, J=8.0 Hz, 1H). LCMS M/Z (M+H)=333.

reactant | 6-iodo-N-(4-pyridyl)quinazolin-4-amine | 0.2729 mmol, 95 mg | IC=1C=C2C(=NC=NC2=CC1)NC1=CC=NC=C1 | C13H9IN4
reactant | (3-chlorophenyl)boronic acid | 0.33 mmol, 51.21 mg, 1.2 equiv. | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | 1-4 dioxane | 0.8 mL | C1COCCO1 | C4H8O2
reactant | potassium phosphate tribasic | 0.82 mmol, 2M, 0.41 mL, 3 equiv. | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
catalyst | Bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) | 0.014 mmol, 10 mg, 0.05 equiv. | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
product | 6-(3-chlorophenyl)-N-(pyridin-4-yl)quinazolin-4-amine | 31 mg | ClC=1C=C(C=CC1)C=1C=C2C(=NC=NC2=CC1)NC1=CC=NC=C1 | C19H13ClN4
